US07592373B2
2.1.e. 3-[4-(2-pyrrolidin-1-ylethyl)phenyl]propynoic acid-biphenyl-4-ylamide
25 mL of THF are degassed and combined with 0.25 g (0.83 mmol) of 1-[2-(4-iodophenyl)ethyl]pyrrolidine, 0.81 g (2.49 mmol) of cesium carbonate, 16 mg (0.083 mmol) of copper (I) iodide and 38 mg (0.033 mmol) of tetrakistriphenylphosphine palladium. Then the mixture is again degassed, and 184 mg (0.83 mmol) of propynoic acid-biphenyl-4-ylamide are added. The reaction mixture is stirred for 3 hours at ambient temperature, poured onto water and extracted with ethyl acetate. The organic phase is extracted three times with water and dried over sodium sulfate. The purification is carried out by column chromatography on silica gel (dichloromethane/methanol/ammonia=10:1:0.1)). Yield: 90 mg (27.5% of theory); melting point: 180-189° C.; C27H26N2O (M=394.52); calc.: molecular ion peak (M+H)+: 395; found: molecular ion peak (M+H)+: 395.

reactant | 1-[2-(4-iodophenyl)ethyl]pyrrolidine | 0.83 mmol, 0.25 g | IC1=CC=C(C=C1)CCN1CCCC1 | C12H16IN
reactant | cesium carbonate | 2.49 mmol, 0.81 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | propynoic acid-biphenyl-4-ylamide | 0.83 mmol, 184 mg | C1(=CC=C(C=C1)NC(C#C)=O)C1=CC=CC=C1 | C15H11NO
catalyst | copper (I) iodide | 0.083 mmol, 16 mg | [Cu]I
product | 3-[4-(2-pyrrolidin-1-ylethyl)phenyl]propynoic acid-biphenyl-4-ylamide | C1(=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)CCN1CCCC1)=O)C1=CC=CC=C1 | C27H26N2O
